US08017637B2
55.5) 5.5′-[(methylimino)bis(butane-4,1-diylimino)]bis(2-methyl-1,3-benzothiazole-4,7-dione)
6 mg (34 μmol) of N-(4-aminobutyl)-N-methylbutane-1,4-diamine is added to a solution of 15 mg (71 mmol; 2.1 equivalents) of 5-methoxy-2-methyl-1,3-benzothiazole-4,7-dione in 1.5 ml of ethanol, then the reaction mixture is stirred at 60° C. for 1 hour. The solvent is then evaporated off under reduced pressure and the expected product is obtained by purification by chromatography on a silica column (eluent: dichloromethane/methanol: 95/5) in the form of a red oil.

reactant | N-(4-aminobutyl)-N-methylbutane-1,4-diamine | 34 μmol, 6 mg | NCCCCN(CCCCN)C | C9H23N3
reactant | 5-methoxy-2-methyl-1,3-benzothiazole-4,7-dione | 71 mmol, 15 mg, 2.1 equivalents | COC1=CC(C2=C(N=C(S2)C)C1=O)=O | C9H7NO3S
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 5.5′-[(methylimino)bis(butane-4,1-diylimino)]bis(2-methyl-1,3-benzothiazole-4,7-dione) | CN(CCCCNC1=CC(C2=C(N=C(S2)C)C1=O)=O)CCCCNC1=CC(C2=C(N=C(S2)C)C1=O)=O | C25H29N5O4S2
